US04520193
The syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.7 g) is dissolved in formic acid (55 cc) at 20° C. Distilled water (11 cc) is added and the mixture is heated for 15 minutes at 45° C. The mixture is cooled to 20° C., diluted with water (44 cc) and filtered. The filtrate is concentrated to dryness under reduced pressure (5 mm Hg; 0.67 kPa) at 20° C. The residue is taken up in ethanol (3×50 cc), the solvent being evaporated off each time under reduced pressure (5 mm Hg; 0.67 kPa) at 20° C. in order to remove the water and the formic acid. The final residue is taken up in a saturated solution of sodium bicarbonate (50 cc) and the aqueous phase is washed with ethyl acetate (50 cc) and acidified to pH 3 with 1N hydrochloric acid, whilst stirring, in the presence of ethyl acetate (100 cc). The organic phase is dried over magnesium sulphate and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the syn isomer of 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.54 g) in the form of a beige solid.

reactant | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CC(=O)C1=CC=CC=C1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H43N5O6S2
solvent | formic acid | 55 cc | C(=O)O | CH2O2
solvent | water | 44 cc | O | H2O
solvent | water | 11 cc | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-2-carboxy-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.54 g | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CC(=O)C1=CC=CC=C1)=NOC | C21H19N5O6S2
